* Repeat loop, double exponential current pulses

.param let = 10.5 cdepth = 1.2
.csparam let = 'let'
.param tfall = 500p trise = 20p  ; tau in exponent for pulse

R1 n1 0 1e4
R2 n2 0 1e4
R3 n3 0 1e4
R4 n4 0 1e4


****  SEE generator without control input, double exponential current sources
aseegen1 NULL [%id(n1 0) %id(n2 0) %id(n3 0) %id(n4 0)] seemod1
.model seemod1 seegen (tdelay = 11n tperiod=25n let='let' cdepth='cdepth' trise='trise' tfall='tfall')
* alternative syntax, if no current measurement required and reference nodes are GND
*aseegen1 NULL [%i(n1) %i(n2) %i(n3) %i(n4)] seemod1



* simulation command: 
.tran 100ps 120ns

*.options method=gear

.control
set xbrushwidth=3
*run
*plot n1 n2+2 n3+4 n4+6
let newlet = let
repeat 10
  run
  plot n1 n2+2 n3+4 n4+6 ylimit -3 7
  let newlet = newlet - 0.5
  alterparam let = $&newlet
  reset
end
rusage
.endc

.end
